US08034812B2
Production of 2,2,2-trichloroethyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate
To a solution of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (400 mg, 0.967 mmol) in tetrahydrofuran (10 mL) were added dropwise 2,2,2-trichloroethyl chlorocarbonate (159 μL, 1.16 mmol) and triethylamine (202 μL, 1.45 mmol), and the mixture was stirred at room temperature for 16 hr. The solvent was evaporated under reduced pressure, and the residue was washed with diisopropyl ether and water to give the title compound (436 mg, 76%) as a pale-yellow powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.967 mmol, 400 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | 2,2,2-trichloroethyl chlorocarbonate | 1.16 mmol, 159 μL | C(OCC(Cl)(Cl)Cl)(=O)Cl | C3H2Cl4O2
reactant | triethylamine | 1.45 mmol, 202 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2,2-trichloroethyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate | 436 mg, 76% | FC(C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)NC(OCC(Cl)(Cl)Cl)=O)C=CC2)C=CC1)(F)F | C23H15Cl3F3N5O4
